US05304549
3.6 g of dibenzyl 2-(6-phthalimidohexylidene)malonate were added to a solution of 0.88 g of crystalline hypophosphorus acid in 10 ml of dry dichloromethane, the solution was cooled to 0° and then 2.8 g of triethylamine and 2.8 g of trimethylsilyl chloride were added. After stirring at room temperature for 3 hours, the mixture was poured into 60 ml of 1M hydrochloric acid and the resulting solution was extracted four times with dichloromethane. The combined extracts were dried and evaporated to give 3.9 g of a colorless gum containing crude dibenzyl 2-[1(RS)-(hydroxyphosphinyl)-6-phthalimidohexyl]malonate which was dissolved in 40 ml of dry dimethyl sulphoxide and reacted with isobutyl iodide in a manner analogous to that described in Example 10(ii). After purification of the crude product by chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution, there was obtained 2.0 g of dibenzyl 2-[1(RS)-(hydroxyphosphinyl)-6phthalimidohexyl]-2-isobutylmalonate as a colorless gum.

reactant | dibenzyl 2-[1(RS)-(hydroxyphosphinyl)-6-phthalimidohexyl]malonate | OP(=O)C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(C(=O)OCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2 | C31H32NO8P
reactant | isobutyl iodide | C(C(C)C)I | C4H9I
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | dibenzyl 2-[1(RS)-(hydroxyphosphinyl)-6phthalimidohexyl]-2-isobutylmalonate | 2.0 g | OP(=O)C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(C(=O)OCC2=CC=CC=C2)(C(=O)OCC2=CC=CC=C2)CC(C)C | C35H40NO8P
